US07625914B2
20 ml (27 mmol) of thionyl chloride are added dropwise, at room temperature, to a solution of 10 g (49 mmol) of 5-bromonicotinic acid in 250 ml of ethanol. The reaction medium is stirred at room temperature for 4 days and then evaporated under vacuum. The residue is taken up in dichloromethane and washed with aqueous sodium carbonate solution. The organic phase is dried over sodium sulfate, filtered and evaporated under vacuum. The residue obtained is purified by chromatography on a column of silica eluted with a 7/3 heptane/ethyl acetate mixture. 9 g (82%) of ethyl 5-bromonicotinate are obtained.

reactant | thionyl chloride | 27 mmol, 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-bromonicotinic acid | 49 mmol, 10 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl 5-bromonicotinate | 9 g, 82% | BrC=1C=NC=C(C(=O)OCC)C1 | C8H8BrNO2
